US09212190B2
To a 250-mL round-bottom flask containing a solution of methyl 1-methyl-4-[[2-(trimethylsilyl)ethoxy]methoxy]cyclohexane-1-carboxylate (3.6 g, 11.90 mmol, 1.00 equiv) in a mixed methanol/water (25 mL/4 mL) was added sodium hydroxide (2.38 g, 59.50 mmol, 5.00 equiv) and the resulting solution was heated to reflux overnight. After cooling, the pH value of the solution was adjusted to 4 with hydrochloric acid (2.0 M), extracted with 3×100 mL of ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate and concentrated under reduced pressure. The desired 1-methyl-4-[[2-(trimethylsilyl)ethoxy]methoxy]cyclohexane-1-carboxylic acid (3.12 g, 91%) was obtained as a light yellow oil which was used in the next step without further purification.

reactant | methyl 1-methyl-4-[[2-(trimethylsilyl)ethoxy]methoxy]cyclohexane-1-carboxylate | 11.90 mmol, 3.6 g, 1.00 equiv | CC1(CCC(CC1)OCOCC[Si](C)(C)C)C(=O)OC | C15H30O4Si
reactant | sodium hydroxide | 59.50 mmol, 2.38 g, 5.00 equiv | [OH-].[Na+]
reactant | hydrochloric acid | 2.0 M | Cl | ClH
solvent | methanol water | 25 mL | CO.O
product | 1-methyl-4-[[2-(trimethylsilyl)ethoxy]methoxy]cyclohexane-1-carboxylic acid | 3.12 g, 91% | CC1(CCC(CC1)OCOCC[Si](C)(C)C)C(=O)O | C14H28O4Si
